US08207166B2
Preparation of 3-bromo-N-(2-methoxyethyl)benzene sulfonamide
To a solution of 3-bromobenzenesulfonyl chloride (1.00 g, 3.72 mmol) in acetone (10 mL) was added 2-methoxyethylamine (0.97 mL, 11.15 mmol, 3.0 eq) and potassium carbonate (2.57 g, 18.6 mmol, 5.0 eq), and the reaction was stirred at 40° C. for 5 h. The mixture was cooled to room temperature and then partitioned between EtOAc and water, and the organic phase was washed with brine, dried over MgSO4, and concentrated at reduced pressure. The residue was purified by MPLC (20% to 25% EtOAc/hexane) to give 1.05 g (96%) of the desired product as an oil. TLC [30% EtOAc/hexane], Rf=0.33.

reactant | 3-bromobenzenesulfonyl chloride | 3.72 mmol, 1.00 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 2-methoxyethylamine | 11.15 mmol, 0.97 mL, 3.0 eq | COCCN | C3H9NO
reactant | potassium carbonate | 18.6 mmol, 2.57 g, 5.0 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 3-bromo-N-(2-methoxyethyl)benzene sulfonamide | 1.05 g, 96% | BrC=1C=C(C=CC1)S(=O)(=O)NCCOC | C9H12BrNO3S
